US04999355
An agitated solution of 2-[3-(4-phenyl-1,2,3,6-tetrahydro-1-pyridyl)propyl]-3-hydroxy-1-isoindolinone (11 g) in acetic acid (80 cc) is heated to a temperature close to 60° C. and 11.3 g of powdered zinc is added in small portions in the course of 10 minutes. The suspension obtained is then heated to a temperature close to 120° C. for 5 hours. The suspension is evaporated to dryness under reduced pressure (20 mm Hg; 2.7 kPa) at 80° C. The residue is dissolved in distilled water (250 cc) and the solution is extracted with methylene chloride (4×50 cc). The organic extracts are combined, dried over anhydrous magnesium sulphate, filtered and concentrated to dryness under reduced pressure (20 mm Hg; 2.7 kPa) at 40° C. The precipitate formed is recrystallized from boiling acetonitrile (25 cc). 6.1 g of 2-[3-(4-phenyl-1,2,3,6-tetrahydro-1-pyridyl)propyl]-1-isoindolinone are thus obtained, melting at 104° C.

reactant | 2-[3-(4-phenyl-1,2,3,6-tetrahydro-1-pyridyl)propyl]-3-hydroxy-1-isoindolinone | 11 g | C1(=CC=CC=C1)C=1CCN(CC1)CCCN1C(C2=CC=CC=C2C1O)=O | C22H24N2O2
solvent | acetic acid | 80 cc | C(C)(=O)O | C2H4O2
catalyst | zinc | 11.3 g | [Zn] | Zn
product | 2-[3-(4-phenyl-1,2,3,6-tetrahydro-1-pyridyl)propyl]-1-isoindolinone | 6.1 g | C1(=CC=CC=C1)C=1CCN(CC1)CCCN1C(C2=CC=CC=C2C1)=O | C22H24N2O
